US05922742
Step 3: 2-(2-Pyridinyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one
To a degassed r.t. solution of 2-bromo-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one (1.103 g, 3.5 mmol), Pd2 (dba)3 (0.064 g, 0.07 mmol), and AsPh3 (0.171 g, 0.56 mmol) in NMP (7.5 mL) was added a degassed NMP solution (10 mL) of 2-trimethylstannanyl pyridine (~7.0 mmol). The resulting mixture was heated to 100° C. for 16 hours. The mixture was then cooled to r.t., diluted with EtOAc, washed 3 times with 10% NH4OH and brine, dried over MgSO4, and concentrated to dryness. The residue was purified by flash chromatography (5% MeOM/EtOAc) to provide 0.215 g of the title compound.

reactant | 2-bromo-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one | 3.5 mmol, 1.103 g | BrC=1C(CCC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C12H11BrO3S
reactant | AsPh3 | 0.56 mmol, 0.171 g | C=1C=CC(=CC1)[As](C=2C=CC=CC2)C=3C=CC=CC3 | C18H15As
reactant | 2-trimethylstannanyl pyridine | ~7.0 mmol | C[Sn](C1=NC=CC=C1)(C)C
solvent | NMP | 7.5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2 (dba)3 | 0.07 mmol, 0.064 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 2-(2-Pyridinyl)-3-(4-(methylsulfonyl)phenyl)-2-cyclopenten-1-one | 0.215 g | N1=C(C=CC=C1)C=1C(CCC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H15NO3S
